US06228547B1
Into a 1-liter reaction flask cooled with an ice bath was introduced 35 ml of acetic acid. Thereto was gradually added 15 g (138.7 mmol) of m-phenylenediamine. Thereto was dropwise added 2 ml (307.4 mmol) of acetic anhydride at room temperature to 30° C. After completion of the addition, the mixture was stirred at 60° C. for 1 hour and then poured into 150 ml of water. The resultant precipitate was taken out by filtration, sufficiently washed with water, and then dried to obtain 18.4 g of diacetyl-m-phenylenediamine as the target compound.

reactant | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
reactant | m-phenylenediamine | 138.7 mmol, 15 g | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | acetic anhydride | 307.4 mmol, 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 150 ml | O | H2O
product | diacetyl-m-phenylenediamine | 18.4 g | C(C)(=O)NC=1C=C(C=CC1)NC(C)=O | C10H12N2O2
